US06599917B1
a) 4-Benzyl-5-bromo-2-[(3R,4R)-3,4-dihydroxypyrrolidine-1-yl]pyridine
A mixture of 4.0 g of 4-benzyl-5-bromo-2-pyridyl trifluoromethanesulfonate, 1.8 g of (3R,4R)-3,4-dihydroxypyrrolidine acetate, 3 ml of 1,8-diazabicyclo[5.4.0]-7-undecene and 5 ml of tetrahydrofuran was heated under stirring for 3 hours in an oil bath kept at 70° C. in a nitrogen atmosphere. After cooling as it was, the reaction mixture was extracted with ethyl acetate-water. The organic phase was washed with water and brine, dried over anhydrous magnesium sulfate and evaporated. The residue was subjected to silica gel column chromatography and eluted with 10% methanol/ethyl acetate, to give 1.67 g of the target compound.

reactant | 4-benzyl-5-bromo-2-pyridyl trifluoromethanesulfonate | 4.0 g | FC(S(=O)(=O)OC1=NC=C(C(=C1)CC1=CC=CC=C1)Br)(F)F | C13H9BrF3NO3S
reactant | (3R,4R)-3,4-dihydroxypyrrolidine acetate | 1.8 g | C(C)(=O)O.O[C@@H]1CNC[C@H]1O
reactant | 1,8-diazabicyclo[5.4.0]-7-undecene | 3 ml | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 4-Benzyl-5-bromo-2-[(3R,4R)-3,4-dihydroxypyrrolidine-1-yl]pyridine | 1.67 g | C(C1=CC=CC=C1)C1=CC(=NC=C1Br)N1C[C@H]([C@@H](C1)O)O | C16H17BrN2O2
